US08071791B2
A method of preparation of the hydrochloride salt from the duloxetine base represents another aspect of the present invention. Preparation of this salt is commonly performed via reaction of the duloxetine base with concentrated hydrochloric acid in ethylacetate environment. However, it has now turned out that substitution of ethylacetate by a lower ketone, such as for example ethylmethylketone, results in higher yields of higher quality duloxetine hydrochloride, especially when duloxetine hydrochloride is prepared and isolated via the method according to this invention. For comparison of effects of the used solvent on quality of the substance, we have used contaminated duloxetine hydrochloride that was obtained as the second fraction from mother liquors after their concentration. In Table 1, a HPLC print-out (C18 reverse column, mobile phase: water/acetonitrile, phosphate buffer pH 7.6) is presented showing analysis of the starting substance and then of the purified substance obtained after 1 hour refluxing in a six-fold amount of the solvent (i.e. 6 ml of the solvent for 1 g of the starting substance), cooling to ambient temperature, filtration and drying.

reactant | duloxetine | CNCC[C@@H](C1=CC=CS1)OC=2C=CC=C3C2C=CC=C3 | C18H19NOS
reactant | hydrochloric acid | Cl | ClH
reactant | ethylmethylketone | C(C)C(=O)C | C4H8O
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | duloxetine hydrochloride | CNCC[C@@H](C1=CC=CS1)OC=2C=CC=C3C2C=CC=C3.Cl | InChI=1S/C18H19NOS.ClH/c1-19-12-11-17(18-10-5-13-21-18)20-16-9-4-7-14-6-2-3-8-15(14)16;/h2-10,13,17,19H,11-12H2,1H3;1H/t17-;/m0./s1
